US08492378B2
methyl 3-(4-methoxyphenyl)imidazo[1,2-a]pyridine-6-carboxylate
A mixture of methyl 3-iodoimidazo[1,2-a]pyridine-6-carboxylate (1.40 g, 4.63 mmol), (4-methoxyphenyl)boronic acid (845 mg, 5.56 mmol), tetrakis(triphenylphosphine)palladium(0) (268 mg, 0.232 mmol), 2 M aqueous sodium carbonate solution (4.63 mL) and 1,2-dimethoxyethane (50 mL) was heated under reflux under an argon atmosphere overnight. After cooling, the reaction mixture was diluted with ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/1-0/1) to give the title compound (730 mg, yield 56%) as colorless crystals.

reactant | methyl 3-iodoimidazo[1,2-a]pyridine-6-carboxylate | 4.63 mmol, 1.40 g | IC1=CN=C2N1C=C(C=C2)C(=O)OC | C9H7IN2O2
reactant | (4-methoxyphenyl)boronic acid | 5.56 mmol, 845 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | sodium carbonate | 2 M, 4.63 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,2-dimethoxyethane | 50 mL | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.232 mmol, 268 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-(4-methoxyphenyl)imidazo[1,2-a]pyridine-6-carboxylate | 730 mg, yield 56% | COC1=CC=C(C=C1)C1=CN=C2N1C=C(C=C2)C(=O)OC | C16H14N2O3
